US07994185B2
Step B: N-{2-Fluoro-3-[2-(1-methylethyl)-5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-1,3-thiazole-2-sulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1,3-thiazole-2-sulfonamide (70 mg, 0.141 mmol) and 1-(methylsulfonyl)-4-piperidinamine (126 mg, 0.706 mmol) the title compound was obtained as an off-white solid (43 mg, 48% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.96 (d, J=1.6 Hz, 1H), 8.08 (d, J=4.3 Hz, 1H), 7.71-8.02 (m, 2H), 7.39-7.49 (m, 1H), 7.25 (d, J=7.7 Hz, 1H), 6.95-7.23 (m, 2H), 5.90-6.23 (m, 1H), 3.64-3.94 (m, 1H), 3.37-3.64 (m, 3H), 3.24 (br. s., 0H), 2.65-2.93 (m, 5H), 1.79-2.00 (m, 2H), 1.39-1.59 (m, 2H), 1.24-1.40 (m, 6H). MS (ESI): 638.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1,3-thiazole-2-sulfonamide | 0.141 mmol, 70 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1SC=CN1)F | C19H15ClFN5O2S3
reactant | 1-(methylsulfonyl)-4-piperidinamine | 0.706 mmol, 126 mg | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
product | N-{2-Fluoro-3-[2-(1-methylethyl)-5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-1,3-thiazole-2-sulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NC1CCN(CC1)S(=O)(=O)C)C(C)C)NS(=O)(=O)C=1SC=CN1 | C25H28FN7O4S4
